US20010021718A1
(3R)-3-(3{[Benzyl(methyl)amino]carbonyl}-1,2,4-oxadiazol-5-yl)-6-cyclohexylhexanoic acid
A solution of tert-butyl (3R)-3-(3-{[benzyl(methyl)amino]carbonyl}-1,2,4-oxadiazol-5-yl)-6-cyclohexylhexanoate (Preparation 33) (296 mg, 0.63 mmol) in dichloromethane (4 ml) was treated with trifluoroacetic acid (1 ml) and the resulting mixture was stirred at room temperature under a nitrogen atmosphere for 17 hours. The solvent was removed under reduced pressure and the residue azeotroped from toluene to afford the title compound (226 mg).

reactant | tert-butyl (3R)-3-(3-{[benzyl(methyl)amino]carbonyl}-1,2,4-oxadiazol-5-yl)-6-cyclohexylhexanoate | 0.63 mmol, 296 mg | C(C1=CC=CC=C1)N(C(=O)C1=NOC(=N1)[C@@H](CC(=O)OC(C)(C)C)CCCC1CCCCC1)C | C27H39N3O4
reactant | trifluoroacetic acid | 1 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
product | (3R)-3-(3{[Benzyl(methyl)amino]carbonyl}-1,2,4-oxadiazol-5-yl)-6-cyclohexylhexanoic acid | 226 mg | C(C1=CC=CC=C1)N(C(=O)C1=NOC(=N1)[C@@H](CC(=O)O)CCCC1CCCCC1)C | C23H31N3O4
